US04180670
N-[m-ethoxy-α-(4-oxazolyl)benzyl]-4-pyridinamine
The title compund is prepared in a similar manner to Examples 5,6 and 7 from 4-oxazolyl lithium (obtained from 4-bromooxazole and butyl lithium) and 4-(m-ethoxybenzylideneamino)pyridine.

reactant | 4-oxazolyl lithium | O1C=NC(=C1)[Li]
reactant | 4-(m-ethoxybenzylideneamino)pyridine | C(C)OC=1C=C(C=NC2=CC=NC=C2)C=CC1 | C14H14N2O
product | N-[m-ethoxy-α-(4-oxazolyl)benzyl]-4-pyridinamine | C(C)OC=1C=C(C(C=2N=COC2)NC2=CC=NC=C2)C=CC1 | C17H17N3O2
